US09193733B2
Step C. {3-oxo-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile
To a solution of {3-hydroxy-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile (1.3 g, 3.1 mmol, a mixture of diastereomers from Step B) in methylene chloride (40 mL) was added Dess-Martin periodinane (1.63 g, 3.84 mmol). After stirring for 1 hour and 15 minutes, the reaction mixture was poured into 1N NaOH and extracted with three portions of DCM. The combined extracts were washed with 1N NaOH, then brine, dried over sodium sulfate, decanted and solvent was removed in vacuo. Flash chromatography on silica gel, eluting with an initial gradient from 0-30% EtOAc/Hexanes, then a rapid gradient up to 100% EtOAc afforded product (1.1 g, 85%). 1H NMR (300 MHz, CDCl3) δ 8.34 (d, J=5.0 Hz, 1H), 8.14 (s, 1H), 8.11 (s, 1H), 7.42 (d, J=3.7 Hz, 1H), 7.18 (d, J=5.0 Hz, 1H), 6.71 (d, J=3.7 Hz, 1H), 5.71 (s, 2H), 4.10-3.97 (m, 2H), 3.74-3.61 (m, 2H), 3.61-3.47 (m, 2H), 3.28 (s, 2H), 0.98-0.86 (m, 2H), −0.07 (s, 9H); LCMS (M+H)+: 422.2.

reactant | {3-hydroxy-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile | OC1CC(C1)(N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C)CC#N | C22H29N5O2Si
reactant | Dess-Martin periodinane | 3.84 mmol, 1.63 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | {3-oxo-1-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile | O=C1CC(C1)(N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C)CC#N | C22H27N5O2Si
